US05461036
12-Hydroxydodecanoic acid (1 g) was dissolved in methylene chloride (25 ml ), and triethylamine (2 ml ) was added to the solution. To the mixture, while it was ice-cooled and stirred, was added dropwise 1-butanesulfonyl chloride (0.72 ml). After 1.5 hours of stirring, the reaction mixture was distributed into chloroform and water, and the chloroform layer was dried with anhydrous sodium sulfate and concentrated. The residue thus obtained was subjected to chromatography on a silica gel column with an eluent system of chloroform-hexane (2:1) to give 12-butanesulfonyloxydodecanoic acid (0.99 g). The product (220 mg) was dissolved in N,N-dimethylformamide (DMF). N-Hydroxysuccinimide (76 mg) and N,N'-dicyclohexylcarbodiimide (149 mg) were added, and the mixture was stirred for 12 hours. The precipitates obtained were removed by filtration and the filtrate was concentrated to give the active ester of 12-butanesulfonyloxydodecanoic acid. The active ester was dissolved in DMF, and 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (251 mg) and triethylamine (0.73 ml) were added. The mixture was stirred for 12 hours. The reaction mixture was concentrated, and the residue was subjected to chromatography on a silica gel column with an eluent system of chloroform-methanol (6:1) to give SPK232 in the yield of 134 mg.

reactant | 12-Hydroxydodecanoic acid | 1 g | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 1-butanesulfonyl chloride | 0.72 ml | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
solvent | water | O | H2O
product | 12-butanesulfonyloxydodecanoic acid | 0.99 g | C(CCC)S(=O)(=O)OCCCCCCCCCCCC(=O)O | C16H32O5S
